US04987132
Pyridine-4-carbaldehyde (1.07 g) and 1.21 g of L-cysteine were heated in 60% ethanol at a refluxing temperature for 4 hours. Activated charcoal (100 mg) was added to the reaction mixture while it was warm. The mixture was filtered. After cooling, the resultant crystalline precipitate was collected by filtration and washed with ethanol to give 1.2 g of 2-(4-pyridyl)thiazolidine-4-carboxylic acid. Melting point 171°-173° C.

reactant | Pyridine-4-carbaldehyde | 1.07 g | N1=CC=C(C=C1)C=O | C6H5NO
reactant | L-cysteine | 1.21 g | N[C@@H](CS)C(=O)O | C3H7NO2S
reactant | charcoal | 100 mg | C | CH4
solvent | ethanol | C(C)O | C2H6O
product | 2-(4-pyridyl)thiazolidine-4-carboxylic acid | 1.2 g | N1=CC=C(C=C1)C1SCC(N1)C(=O)O | C9H10N2O2S
